US06723735B1
1-[3-(6-Bromo-3H-imidazo[4,5-b]pyridin-3-yl)phenyl]pyrrolidin-2-one was prepared from 1-[3-(5-bromo-3-nitropyridin-2-ylamino)phenyl]pyrrolidin-2-one as described in Example 1. Oxalate salt, white crystals, m.p. 194-195° C. (from ethanol); δH (360 MHz, d6-DMSO) 2.10 (2H, quin, J 7), 2.56 (2H, t, J 8), 3.92 (2H, t, J 7), 7.58-7.65 (2H, m), 7.78-7.81 (1H, m), 8.19 (1H, s), 8.52-8.54 (2H, m), 8.93 (1H, s); m/z (ES+) 357 and 359 (M++H).

reactant | 1-[3-(5-bromo-3-nitropyridin-2-ylamino)phenyl]pyrrolidin-2-one | BrC=1C=C(C(=NC1)NC=1C=C(C=CC1)N1C(CCC1)=O)[N+](=O)[O-] | C15H13BrN4O3
reactant | ethanol | C(C)O | C2H6O
product | 1-[3-(6-Bromo-3H-imidazo[4,5-b]pyridin-3-yl)phenyl]pyrrolidin-2-one | BrC=1C=C2C(=NC1)N(C=N2)C=2C=C(C=CC2)N2C(CCC2)=O | C16H13BrN4O
